US05488149
9.45 g of methyl (R)-(-)-3-hydroxybutyrate was dissolved in 200 ml of tetrahydrofuran, and 112 ml of a 1.5M cyclohexane solution of lithium diisopropylamide was added thereto with stirring under cooling to -70° C. Then, the temperature was raised to -25° C. Then, 35 ml of a hexamethylphosphoric triamide solution of 21.1 g of 3,4-dichlorobenzyl bromide was dropwise added to this solution under stirring while maintaining the temperature at -25° C. After the dropwise addition, the temperature was raised to room temperature. Then, a saturated ammonium chloride aqueous solution was added to the reaction solution with stirring under cooling with ice. Then, the temperature was raised to room temperature, and ethyl ether and water were added thereto for liquid separation. The organic layer was collected by separation and post-treated by a conventional method. The product was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain 10.6 g (yield: 48%) of methyl (2R, 3R)-2-(3,4-dichlorobenzyl)-3-hydroxybutyrate.

reactant | methyl (R)-(-)-3-hydroxybutyrate | 9.45 g | O[C@@H](CC(=O)OC)C | C5H10O3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3,4-dichlorobenzyl bromide | 21.1 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | hexamethylphosphoric triamide | 35 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | cyclohexane | 1.5M | C1CCCCC1 | C6H12
product | methyl (2R, 3R)-2-(3,4-dichlorobenzyl)-3-hydroxybutyrate | 10.6 g, yield: 48% | ClC=1C=C(C[C@@H](C(=O)OC)[C@@H](C)O)C=CC1Cl | C12H14Cl2O3
